US07071185B2
Step 5—Cis and Trans 1,2,3,4,8,8a,9,10,11,11a-decahydro-cyclopenta[b][1,4]diazepino[6,7,1-ij]quinoline
A flask containing Cis 2-(1,2,3,3a,9,9a-Hexahydro-cyclopenta[b]quinolin-4-yl)-ethylamine (0.18 g, 0.84 mmol) and 0.07 ml of 37% aqueous formaldehyde in 2 ml of EtOH was treated with TFA (0.07 mL, 0.92 mmol) at room temperature for 1 hr. The mixture was concentrated under reduced pressure, and the residue was taken up in dichloromethane, washed with 1 N NaOH (15 mL), Brine (15 mL) and then dried with MgSO4. Evaporation and flash chromatography (10% 2N NH3 in ethanol/dichloromethane) afforded the title compound, which was converted to the HCl salt to give a brown solid (0.19 mg, 85%): The same step 5 procedure was used to prepare the trans isomer except that Trans 2-(1,2,3,3a,9,9a-Hexahydro-cyclopenta[b]quinolin-4-yl)-ethylamine was used instead of the cis isomer.

reactant | Cis 2-(1,2,3,3a,9,9a-Hexahydro-cyclopenta[b]quinolin-4-yl)-ethylamine | 0.84 mmol, 0.18 g | C1CC[C@H]2N(C=3C=CC=CC3C[C@H]21)CCN | C14H20N2
reactant | formaldehyde | 0.07 ml | C=O | CH2O
reactant | TFA | 0.92 mmol, 0.07 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 2 ml | CCO | C2H6O
product | Trans 1,2,3,4,8,8a,9,10,11,11a-decahydro-cyclopenta[b][1,4]diazepino[6,7,1-ij]quinoline | C1CNCC=2C=CC=C3C[C@H]4[C@H](N1C23)CCC4 | C15H20N2
